US06727264B1
N-(3-{1-[4-(4-METHOXYPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure O and Scheme W using 4-(4-methoxyphenyl)-1-butanol and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 409 (M+H)+.

reactant | 4-(4-methoxyphenyl)-1-butanol | COC1=CC=C(C=C1)CCCCO | C11H16O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[4-(4-METHOXYPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC1=CC=C(C=C1)CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H36N2O2
